Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with metastatic (cerebellum)
___ who presents from clinic with nausea and vomiting.

The patient was in ___ 3 weeks ago where she developed neck
stiffness and nausea. She went to the ED where she underwent a
___ which was negative and her neck pain resolved though her
nausea was persistent. She later developed a UTI for which she
was treated with Bactrim and developed severe nausea and 
vomiting
requiring IV hydration. 

The patient stated that her symptoms had persistent throughout
the month with intermittent headaches, nausea and vomiting. 

She has had no fevers or chills. No vision changes. No chest 
pain
or dyspnea. No abd pain. No dysuria or diarrhea.

She was seen by her oncologist in outpatient follow up today
where an MRI brain was performed that demonstrated increased 
size
of her known cerebellar met and hydrocephalus. She was referred
to the ED for further evaluation. 

In the ED, the initial vital signs were:
T 96.8 HR 88 BP 114/84 R 16 SpO2 96% RA

Laboratory data was notable for: 
Normal Chem10 and LFTs
TSH 1.5
Cortisol ___
Normal CBC

She underwent a LP which demonstrated:

CSF:
Tube 1 WBC 4 30% PMN 21% Lymph 39% Mono RBC 1610
Tube 4
WBC 7 RBC 21 PMN 0 Lymph ___ Mono 49
Protein 16 Glucose 47
Opening Pressure 13

The patient received:
___ 12:40 IV LORazepam 1 mg  

 
Past Medical History:
PAST ONCOLOGIC HISTORY (Per OMR, reviewed): 
- ___: went to Urgent Care given ongoing cough and found to 
have RUL mass on imaging
- ___: Had FDG avid 3.1 cm RUL mass with minimal increase in 
moderate right non hemorrhagic pleural effusion and extensive 
miliary nodules and focal FDG uptake along T10 vertebral body 
with associate sclerotic lesion
-___: IP performed ___ with cytology showing lung 
adenocarcinoma
-___: started gefitinib
-___: ___ #2 for symptomatic recurrent pleural effusion, 
800cc removed
-___: right thoracoscopy with pleural biopsy, talc 
pleurodesis, and tunneled pleural catheter placement
-___ - ___: admitted for talc pleurodesis
-___: second talc pleurodesis 

PAST MEDICAL HISTORY (Per OMR, reviewed):  
-HSV 1
-H/O Sphenoid sinusitis
-Skin SCC s/p excision x2
 
Social History:
___
Family History:
Father: colon cancer in his ___, active smoker who quit ___ years 
before diagnosis and may have had asbestos exposure  
Mother: skin cancers, when much older was found to have likely 
metastatic disease in her lungs (unknown primary)  
Sister: breast cancer at ___, died of pancreatic cancer at ___, MS 
 
Sister: ___ Macroglobulinemia  
Sister: melanoma  
Brother: melanoma  
Maternal uncle: ___ Macroglobulinemia  
 
Physical Exam:
VITALS: 
24 HR Data (last updated ___ @ 2330)
    Temp: 97.8 (Tm 98.2), BP: 126/81 (112-126/62-81), HR: 96
(80-96), RR: 18 (___), O2 sat: 96% (96%-98%), O2 delivery: RA  


GENERAL:  NAD
HEENT: NC, AT
EYES: PERRL
RESP: CTAB, no wheezing, rhonchi or crackles
___: RRR no MRG
GI: soft, nontender, nondistended
EXT: warm, no edema
NEURO: CN II-XII intact

 
Pertinent Results:
___ 08:20AM BLOOD WBC-8.5 RBC-4.53 Hgb-12.3 Hct-40.5 MCV-89 
MCH-27.2 MCHC-30.4* RDW-12.7 RDWSD-41.5 Plt ___
___ 05:54AM BLOOD WBC-4.1 RBC-3.98 Hgb-10.8* Hct-35.6 
MCV-89 MCH-27.1 MCHC-30.3* RDW-12.7 RDWSD-41.8 Plt ___
___ 05:46AM BLOOD WBC-4.6 RBC-4.27 Hgb-11.6 Hct-38.3 MCV-90 
MCH-27.2 MCHC-30.3* RDW-13.0 RDWSD-42.5 Plt ___
___ 06:09AM BLOOD WBC-4.4 RBC-4.06 Hgb-11.0* Hct-35.9 
MCV-88 MCH-27.1 MCHC-30.6* RDW-12.8 RDWSD-41.8 Plt ___
___ 08:20AM BLOOD Neuts-87.2* Lymphs-5.4* Monos-6.6 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-7.43* AbsLymp-0.46* 
AbsMono-0.56 AbsEos-0.01* AbsBaso-0.02
___ 06:09AM BLOOD Neuts-56.6 ___ Monos-16.9* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-2.49 AbsLymp-1.11* 
AbsMono-0.74 AbsEos-0.02* AbsBaso-0.01
___ 06:09AM BLOOD Glucose-83 UreaN-14 Creat-0.6 Na-141 
K-4.3 Cl-106 HCO3-23 AnGap-12
___ 08:20AM BLOOD ALT-8 AST-14 LD(LDH)-182 AlkPhos-66 
TotBili-0.4
___ 08:20AM BLOOD calTIBC-325 Ferritn-112 TRF-250
___ 08:20AM BLOOD TSH-1.5
___ 08:20AM BLOOD Cortsol-36.4*

Cerebrospinal fluid:
POSITIVE FOR MALIGNANT CELLS.
Metastatic carcinoma, favor metastasis from patient's known lung 
adenocarcinoma.

___ 01:43PM CEREBROSPINAL FLUID (CSF) TNC-4 RBC-1610* 
Polys-30 ___ Macroph-10
___ 01:43PM CEREBROSPINAL FLUID (CSF) TNC-7* RBC-21* 
Polys-0 ___ Macroph-15 Lining-1
___ 01:43PM CEREBROSPINAL FLUID (CSF) TotProt-16 Glucose-47 
LD(LDH)-64
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with metastatic lung cancer 
(brain and bone) on osimertinib presents from clinic with 
persistent nausea/vomiting and found to have progressive 
hydrocephalus and slight increase in size of cerebellar lesion. 

#NAUSEA/VOMITING
#SECONDARY MALIGNANCY OF BRAIN (CEREBELLUM)
#HYDROCEPHALUS:
An MRI on the day of admission showed a small increase in size 
of her known cerebellar lesion as well as increasing 
hydrocephalus and periventricular edema. Her WBC was normal and 
she was afebrile and hemodynamically stable. A lumbar puncture 
was performed, which showed no evidence of infection. CSF was 
sent for cytology, which is still pending at the time of 
discharge. She was evaluated by radiation oncology, who did not 
feel that her symptoms were likely to be due to her cerebellar 
lesion and felt there was no indication for radiation therapy. 
She was also evaluated by neuro-oncology, who were similarly 
doubtful that her symptoms were due to her MRI findings. She was 
treated with Zofran, Compazine and started on 5 days of 4mg PO 
dexamethasone. She continued to experience mild nausea, relieved 
by Zofran and dexamethasone. She was evaluated by physical 
therapy, who felt she may have some vestibular dysfuntion, and 
recommended outpatient ___ rehab. She had no further 
episodes of lightheadedness during her admission, which ha 
previously been occurring ___ times per day. She was discharged 
with 3 additional days of dexamethasone 4mg daily (5 days 
total).

#LUNG CANCER:
Currently being treated with osimertinib. This was held during 
the first two days of her admission, then restarted.

TRANSITIONAL ISSUES
=======================
[] will continue dexamethasone 4mg daily for 3 days
[] will need ___ rehab as outpatient
[] CSF cytology pending upon discharge, will need to be followed 
up by outpatient oncologist
[] Would continue to monitor EKGs as outpatient while on 
antiemetics
[] A cystic structure is noted in the right adnexa measuring 8.0 
x 8.1 x 7.0 
cm containing an eccentrically located hyperechoic structure 
without internal 
vascularity, incompletely evaluated. While a similar structure 
has been seen 
on multiple prior PET-CTs, the appearance on today's study 
differs from prior 
ultrasound and MR. ___ cannot be excluded in the setting 
of known lung 
cancer. Contrast enhanced pelvic MR is recommended for further 
evaluation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. osimertinib 80 mg oral DAILY 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*30 Tablet Refills:*0 
3.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
4.  osimertinib 80 mg oral DAILY  
5.Outpatient Physical Therapy
___ rehab. Lung cancer: ___
Outpatient Oncologist: 
___, MD, PHD
Phone: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hydrocephalus
Nausea/vomiting

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___!

You were admitted to the hospital with nausea, vomiting and 
lightheadedness. An MRI of your brain demonstrated a slight 
increase in the size of your known cerebellar lesion as well as 
an increased amount of cerebral spinal fluid. A lumbar puncture 
did not reveal any sign of infection. Testing of the cerebral 
spinal fluid for evidence of cancer is still pending. You were 
evaluated by the Radiation Oncology team, who did not feel there 
was any indication for radiation to of your brain. You were 
given anti-nausea medication and steroids to treat your 
symptoms. You should continue to take the steroid medication 
(dexamethasone) for 3 additional days after discharge. You were 
evaluated by physical therapy, who felt you would benefit from 
___ rehab.

When you leave, it is important to take your medications as 
prescribed. It is also important you attend your appointments as 
listed below. 

We wish you the best of luck!

Your ___ Care Team
 
Followup Instructions:
___